US06281363B1
A solution of 0.25 g of (E)-2(R(-[1(S)-[(tetrahydro-2(RS)pyranyloxy)carbamoyl]4-phenyl-3-butenyl]-4-methyl-N-(2,4-dioxo-1,3-diazaspiro[4.5]decan-3-yl)valeramide in 5 ml of methanol containing 0.025 g of 10% palladium-on-carbon catalyst was shaken in a hydrogen atmosphere for 2 hours. The catalyst was filtered off to give a solution of 0.25 g of 2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenylbutyl]-4-methyl-N-(2,4-dioxo-1,3-diazaspiro[4.5]decan-3-yl)valeramide in methanol that was used directly in the process step.

reactant | [1(S)-[(tetrahydro-2(RS)pyranyloxy)carbamoyl]4-phenyl-3-butenyl]-4-methyl-N-(2,4-dioxo-1,3-diazaspiro[4.5]decan-3-yl)valeramide | O1C(CCCC1)ONC(=O)[C@@H](CC=CC1=CC=CC=C1)C(C(=O)NN1C(NC2(C1=O)CCCCC2)=O)CC(C)C | C30H42N4O6
reactant | hydrogen | [H][H] | H2
solvent | methanol | 5 ml, 0.025 g | CO | CH4O
catalyst | palladium-on-carbon | [Pd] | Pd
product | 2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenylbutyl]-4-methyl-N-(2,4-dioxo-1,3-diazaspiro[4.5]decan-3-yl)valeramide | 0.25 g | O1C(CCCC1)ONC(=O)[C@@H](CCCC1=CC=CC=C1)[C@H](C(=O)NN1C(NC2(C1=O)CCCCC2)=O)CC(C)C | C30H44N4O6
